US05763458
A solution of 1-(4-amino-5-chloro-2,3-ethylenedioxyphenyl)-3-(pyridin-4-yl)-2-propen-1-one (1.55 g, 5 mmol) in 50 mL of THF was hydrogenated over 5% palladium on carbon (0.5 g) for approximately 2 hours. The mixture was filtered and concentrated by rotary evaporation. Purification of the residue by silica gel chromatography (2% CH3OH--CH2 +0.1% NH4OH) gave 1-(4-amino-5-chloro-2,3-ethylenedioxyphenyl)-3-(pyridin-4-yl)propan.-1-one (1.23 g, 3.8 mmol)

reactant | 1-(4-amino-5-chloro-2,3-ethylenedioxyphenyl)-3-(pyridin-4-yl)-2-propen-1-one | 5 mmol, 1.55 g | NC1=C2C(=C(C=C1Cl)C(C=CC1=CC=NC=C1)=O)OCCO2 | C16H13ClN2O3
solvent | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
product | 1-(4-amino-5-chloro-2,3-ethylenedioxyphenyl)-3-(pyridin-4-yl)propan | NC1=C2C(=C(C=C1Cl)CCCC1=CC=NC=C1)OCCO2 | C16H17ClN2O2
